Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
Morphine / latex
 
Attending: ___
 
Chief Complaint:
symptomatic fibroid uterus
 
Major Surgical or Invasive Procedure:
abdominal myomectomy

 
History of Present Illness:
___ gravida 3 para 3 with a known fibroid uterus who has
been experiencing increased pain with her periods.  She states 
at
the maximum pain, she would rate it a 10 out of 10. She takes
NSAIDs with some relief of her pain. Because of her worsening
symptoms she presents today to discuss operative management.

Her fibroids were diagnosed ___.  Initially, so she was
treated hormonally with oral contraceptive pills; however,  she
only tolerated them for a week due to increased sensitivity and
nausea.  She continues to have heavy menses however she denies
any intramenstrual bleeding.

On ___, her u/s showed that the uterus is anteverted and
measures 5.9 x 14.5 x 9.9 cm. The endometrium is homogenous and
measures 12 mm.  At the uterine fundus is an 8.1 x 7.0 x 7.6 cm
fibroid. The ovaries are normal. There is no free fluid. These
findings were discussed with the patient and her questions were
answered.
 
Past Medical History:
Ob/Gyn hx:
G3P3 - SVD x 3 - all boys  ___, ___, ___
Last pap smear was ___ and was normal. She has no hx of 
abnormal
paps.
She denies any hx of STIs.

Medical hx:
ALLERGIC RHINITIS                                               
pollen/pets                                                     

ANXIETY                                                         

ASTHMA                                                          
no hx of intubations/admissions; rare EW visit/hx of mild
steroid, prn albuterol                          

ATYPICAL NEVUS                                        ___      
arm (rt), excised                                               

DYSMENORRHEA                                                    
cyclic mastalgia, attempting homeopathic Rx     
 
Social History:
Social History:
___
Family History:
Family History :
       
Father    Living    ___  OSTEOPOROSIS         reaction to        
                                             reclast, kidney    
                                             failure            
                        DIABETES MELLITUS                       
                        DKA                                     
                        PROSTATE CANCER                         
                        DEPRESSION                              
                        ALCOHOLISM                              

Mother    Living    ___  OBESITY              lost 120 lbs       
                        ALLERGIC URTICARIA                      

Son       Living    ___  DEPRESSION                              

Son       Living    ___                                          

Daughter  Living    ___                                          

MGM                     FIBROID UTERUS                          

PGM                     BREAST CANCER            
 
Physical Exam:
Discharge physical exam
Vitals: VSS
Gen: NAD, A&O x 3
CV: RRR
Resp: no acute respiratory distress
Abd: soft, appropriately tender, no rebound/guarding, incision 
c/d/i
Ext: no TTP
 
Pertinent Results:
___ 10:15AM BLOOD WBC-10.6*# RBC-3.28* Hgb-8.4* Hct-27.1* 
MCV-83 MCH-25.6* MCHC-31.0* RDW-14.5 RDWSD-43.1 Plt ___
___ 01:05PM BLOOD UreaN-11 Creat-0.7
___ 01:05PM BLOOD HCG-<5

CTA Chest ___:
1. No evidence of pulmonary embolism or aortic abnormality.
2. Small bilateral pleural effusions with relaxation and 
dependent atelectasis
in both lower lobes.
3. Bronchial wall thickening, most prominent in the bilateral 
lower lobes, is
nonspecific but could be seen in small airways disease.
 
Brief Hospital Course:
On ___, Ms. ___ was admitted to the gynecology service 
after undergoing abdominal myomectomy for symptomatic fibroid 
uterus. Please see the operative report for full details.
Her post-operative course was as follows: Immediately post-op, 
her pain was controlled with IV dilaudid and toradol.  On 
post-operative day 1, her urine output was adequate so her foley 
was removed and she voided spontaneously. Her diet was advanced 
without difficulty and she was transitioned to PO ibuprofen, 
tylenol, and oxycodone.  She did have some subjective shortness 
of breath with an oxygen saturation that dipped to the low 90's 
in the evening on post operative day one through morning of post 
operative day 2.  Other vital signs were stable.  She underwent 
a CTA chest on post operative day 2, which was notable for 
bilateral pleural effusions and non specific bronchial wall 
thickening, without evidence of pulmonary embolism.  Of note, 
she did complain of eye itchiness after the CT scan, and was 
given PO benadryl with improvement in her symptoms.  Vitals were 
stable at that time.  Her symptoms and her oxygen saturations 
improved with incentive spirometry, and she was saturating fully 
on room air before discharge.  
She was continued on her home medications for anxiety and asthma 
while she was in house.
By post-operative day 2, she was tolerating a regular diet, 
voiding spontaneously, ambulating independently, and pain was 
controlled with oral medications. She was then discharged home 
in stable condition with outpatient follow-up scheduled.
 
Medications on Admission:
albuterol prn, citalopram 40', loratidine 10'
 
Discharge Medications:
1.  Acetaminophen ___ mg PO Q6H:PRN Pain - Mild 
RX *acetaminophen 500 mg 2 tablet(s) by mouth every 6 hours Disp 
#*60 Tablet Refills:*2 
2.  Docusate Sodium 100 mg PO BID 
RX *docusate sodium 100 mg 1 capsule(s) by mouth twice daily 
Disp #*60 Capsule Refills:*2 
3.  Ibuprofen 600 mg PO Q6H:PRN Pain 
take with food 
RX *ibuprofen 600 mg 1 tablet(s) by mouth every 6 hours Disp 
#*60 Tablet Refills:*2 
4.  OxyCODONE (Immediate Release) ___ mg PO Q4H:PRN Pain - 
Severe 
  Reason for PRN duplicate override: Alternating agents for 
similar severity
do not drive or drink alcohol, may cause sedation 
RX *oxycodone 5 mg ___ tablet(s) by mouth every 4 hours Disp 
#*40 Tablet Refills:*0 
5.  Albuterol Inhaler ___ PUFF IH Q4H:PRN wheezing, shortness of 
breath  
6.  Citalopram 40 mg PO DAILY  
7.  Loratadine 10 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
uterine fibroids

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to the gynecology service after your 
procedure. You have recovered well and the team believes you are 
ready to be discharged home. Please call Dr. ___ 
office with any questions or concerns. Please follow the 
instructions below.

General instructions:
* Take your medications as prescribed.
* Do not drive while taking narcotics.
* Take a stool softener such as colace while taking narcotics to 
prevent constipation.
* Do not combine narcotic and sedative medications or alcohol.
* Do not take more than 4000mg acetaminophen (APAP) in 24 hrs.
* No strenuous activity until your post-op appointment.
* Nothing in the vagina (no tampons, no douching, no sex) for 6 
weeks.
* No heavy lifting of objects >10 lbs for 6 weeks.
* You may eat a regular diet.
* You may walk up and down stairs.

Incision care:
* You may shower and allow soapy water to run over incision; no 
scrubbing of incision. No tub baths for 6 weeks.
* If you have steri-strips, leave them on. They will fall off on 
their own or be removed during your followup visit.

To reach medical records to get the records from this 
hospitalization sent to your doctor at home, call ___.

 
Followup Instructions:
___